US05420129
By reacting 4-tert-butyl-N-[6-chloromethyl-5-(2-chloro-5-methoxy-phenoxy)-pyrimidin-4-yl]-benzenesulphonamide with ethanolamine there was obtained 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-(2-hydroxy-ethylaminomethyl)-pyrimidin-4yl]-benzenesulphonamide.

reactant | 4-tert-butyl-N-[6-chloromethyl-5-(2-chloro-5-methoxy-phenoxy)-pyrimidin-4-yl]-benzenesulphonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=C(C=CC(=C1)OC)Cl)CCl | C22H23Cl2N3O4S
reactant | ethanolamine | C(O)CN | C2H7NO
product | 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-(2-hydroxy-ethylaminomethyl)-pyrimidin-4yl]-benzenesulphonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=C(C=CC(=C1)OC)Cl)CNCCO | C24H29ClN4O5S
